US04254260
2-Methanesulfonamidothiazol-4-ylacetic acid (1.13 g.), 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid (1.37 g.), phosphorus pentachloride (2.08 g.) and trimethylsilylacetamide (4.58 g.) were treated in the similar manner to that of Example 12 to give 3-carbamoyloxymethyl-7-(2-methanesulfonamidothiazol-4-yl)-acetamido-3-cephem-4-carboxylic acid (1.79 g.)

reactant | 2-Methanesulfonamidothiazol-4-ylacetic acid | 1.13 g | CS(=O)(=O)NC=1SC=C(N1)CC(=O)O | C6H8N2O4S2
reactant | 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid | 1.37 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C9H11N3O5S
reactant | phosphorus pentachloride | 2.08 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | trimethylsilylacetamide | 4.58 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
product | 3-carbamoyloxymethyl-7-(2-methanesulfonamidothiazol-4-yl)-acetamido-3-cephem-4-carboxylic acid | 1.79 g | C(N)(=O)OCC=1C(S[C@H]2N(C1C(=O)O)C(C2C=2N=C(SC2)NS(=O)(=O)C)=O)NC(C)=O | C15H17N5O8S3
